US07989634B2
Intermediate 4: 1-BOC-4-piperidone
To a solution of 4-piperidone (10 g, 100 mmol) and TEA (28.0 mL, 20 mmol) in DCM (2.00 l) was added di-t-butyldicarbonate (30 g, 150 mmol) at rt. After 4 h, the reaction mixture was concentrated in vacuo and the residue was diluted with 1N HCl (500 mL). The reaction mixture was extracted with EtOAc, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by column chomatography (EtOAc/Hex=1/15) to give the title compound (19.1 g, 96.5%).

reactant | 4-piperidone | 100 mmol, 10 g | N1CCC(CC1)=O | C5H9NO
reactant | di-t-butyldicarbonate | 150 mmol, 30 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 2.00 l | C(Cl)Cl | CH2Cl2
product | 1-BOC-4-piperidone | 19.1 g, 96.5% | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
